datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC[NH:10]CC(=O)Nc1c(C)cccc1C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC[NH+:10](CC(=O)Nc1c(C)cccc1C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(C)(O)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=CC=C2)[H:20])C=C1>>CC(C)(O)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCN(CC)c1sc(c2ccccc2)n[n:10]1.c1ccc2[nH][n+:21]([H:20])cc2c1>>CCN(CC)c1sc(c2ccccc2)n[n+:10]1[H:20].c1ccc2[nH][n:21]cc2c1 10=20;20,21=21",
"CC(=O)Oc1cccc2ccc[n+:21]([H:20])c12.CCCCCCCC[N:10](CC(C)O)CC(C)O>>CC(=O)Oc1cccc2ccc[n:21]c12.CCCCCCCC[N+:10](CC(C)O)(CC(C)O)[H:20] 10=20;20,21=21",
"CCOC(=O)Cc1[nH]c2ccccc2[n:10]1.Cc1ccc(C(=O)N(C)[O:21][H:20])cc1>>CCOC(=O)Cc1[nH]c2ccccc2[n+:10]1[H:20].Cc1ccc(C(=O)N(C)[O-:21])cc1 10=20;20,21=21",
"C[Si](C)(CNC1CCCCC1)O[Si](C)(C)C[NH:10]C1CCCCC1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C[Si](C)(CNC1CCCCC1)O[Si](C)(C)C[NH+:10](C1CCCCC1)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"C[N+:21]1([H:20])C[C@@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@H]21.O=C(/C=C(\I)c1ccccc1)[O-:10]>>C[N:21]1C[C@@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@H]21.O=C(/C=C(\I)c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"Cc1ccc(C(=O)[O-])c([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc(C(=O)[O-])c([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCP(=O)(CC)[O:21][H:20].O=C(c1ccc(CCl)cc1)[O-:10]>>CCP(=O)(CC)[O-:21].O=C(c1ccc(CCl)cc1)[O:10][H:20] 10=20;20,21=21",
"CN(C)C(=S)SCC(=O)[O:21][H:20].Nc1nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)c([O-:10])[nH+]1>>CN(C)C(=S)SCC(=O)[O-:21].Nc1nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)c([O:10][H:20])[nH+]1 10=20;20,21=21",
"COc1cc(N)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)c1OC.Nc1[nH]nn[n+:21]1[H:20]>>COc1cc(N)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])c1OC.Nc1[nH]nn[n:21]1 10=20;20,21=21",
"C/C(=N\[O:21][H:20])c1ccccc1.CC1=CS/C(=[N:10]\C)N1C>>C/C(=N\[O-:21])c1ccccc1.CC1=CS/C(=[N+:10](\C)[H:20])N1C 10=20;20,21=21",
"C[NH+](C)CCCNc1c([N+](=O)[O-])c[n:10]c2ccccc12.c1c[nH]c(C[S:21][H:20])n1>>C[NH+](C)CCCNc1c([N+](=O)[O-])c[n+:10]([H:20])c2ccccc12.c1c[nH]c(C[S-:21])n1 10=20;20,21=21",
"C1CCC(=[NH:10])CC1.c1c[nH+]c(Cc2[nH]cc(Cc3c[nH]c[nH+]3)[n+:21]2[H:20])[nH]1>>C1CCC(=[NH+:10][H:20])CC1.c1c[nH+]c(Cc2[nH]cc(Cc3c[nH]c[nH+]3)[n:21]2)[nH]1 10=20;20,21=21",
"Nc1c2ccccc2s[n+:21]1[H:20].Nc1cc[n:10]cc1Br>>Nc1c2ccccc2s[n:21]1.Nc1cc[n+:10]([H:20])cc1Br 10=20;20,21=21",
"C[NH2+]CC[NH:10]C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[NH2+]CC[NH+:10](C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC/C(N=O)=N/[O-:10].CCC(CO)[NH+:21](Cl)[H:20]>>CC/C(N=O)=N/[O:10][H:20].CCC(CO)[NH:21]Cl 10=20;20,21=21",
"CC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1.COCC[O-:10]>>CC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1.COCC[O:10][H:20] 10=20;20,21=21",
"Cc1cc[n+:21]([H:20])c2ccccc12.Cc1ccc(CC[NH2:10])cc1>>Cc1cc[n:21]c2ccccc12.Cc1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"Cc1ccc(OC(=O)CCCC[N:10](C)C)cc1.Oc1ccc([O:21][H:20])c2cccnc12>>Cc1ccc(OC(=O)CCCC[N+:10](C)(C)[H:20])cc1.Oc1ccc([O-:21])c2cccnc12 10=20;20,21=21",
"Cc1cc([S-])[n:10]cn1.Cc1ccc(N[N+:21](=C(C#N)C#N)[H:20])cc1>>Cc1cc([S-])[n+:10]([H:20])cn1.Cc1ccc(N[N:21]=C(C#N)C#N)cc1 10=20;20,21=21",
"CC(=O)Nc1cccc2c1cc1ccccc1[n+:21]2[H:20].[NH3+][C@H]1C[C@H]2CCCC[C@@H]2C[C@@H]1[NH2:10]>>CC(=O)Nc1cccc2c1cc1ccccc1[n:21]2.[NH3+][C@H]1C[C@H]2CCCC[C@@H]2C[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CN1CCC[N:10]1C.Cc1cccc(C)c1/C(=N/CCC[N+:21](C)(C)[H:20])c1ccccc1>>CN1CCC[N+:10]1(C)[H:20].Cc1cccc(C)c1/C(=N/CCC[N:21](C)C)c1ccccc1 10=20;20,21=21",
"CCC[N+:21](CC(O)CC)(CC(O)CC)[H:20].O=Cc1ccc2ccccc2[n:10]1>>CCC[N:21](CC(O)CC)CC(O)CC.O=Cc1ccc2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"C=C(C=C(C)[O-:10])C(C)(C)C.Cc1c[n+]([C@@H]2C[C@@H](O)[C@H](CO)O2)c([O:21][H:20])nc1NCCc1ccccc1>>C=C(C=C(C)[O:10][H:20])C(C)(C)C.Cc1c[n+]([C@@H]2C[C@@H](O)[C@H](CO)O2)c([O-:21])nc1NCCc1ccccc1 10=20;20,21=21",
"COc1ccc(C(=O)[O-:10])cc1.Nc1nc2c(ncn2[C@@H]2C=C[C@H](CO)C2)c([O-])[n+:21]1[H:20]>>COc1ccc(C(=O)[O:10][H:20])cc1.Nc1nc2c(ncn2[C@@H]2C=C[C@H](CO)C2)c([O-])[n:21]1 10=20;20,21=21",
"C=CC[N+:21](CC(C)O)(CC(C)O)[H:20].CC=C=CC(C)(C)C(=O)[O-:10]>>C=CC[N:21](CC(C)O)CC(C)O.CC=C=CC(C)(C)C(=O)[O:10][H:20] 10=20;20,21=21",
"[H:20][PH3+:21].[NH3+][C@H]1CC[C@H](C(=O)[O-:10])CC1>>[NH3+][C@H]1CC[C@H](C(=O)[O:10][H:20])CC1.[PH3:21] 10=20;20,21=21",
"CC1CCC[NH:10]C1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1CCC[NH+:10]([H:20])C1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+]CCSCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+]CCSCC[NH2+:10][H:20] 10=20;20,21=21",
"CCOC(=O)c1ccc([O:21][H:20])c([N+](=O)[O-])c1.O=C([O-])c1ccccc1[O-:10]>>CCOC(=O)c1ccc([O-:21])c([N+](=O)[O-])c1.O=C([O-])c1ccccc1[O:10][H:20] 10=20;20,21=21",
"CC([NH3+])c1nnn[n:21]1[H:20].O=C([O-])/C(=N\[O-:10])c1ccccc1>>CC([NH3+])c1nnn[n-:21]1.O=C([O-])/C(=N\[O:10][H:20])c1ccccc1 10=20;20,21=21",
